US04254260
To a solution of 4-methylene-2-oxetanone (0.4 g.) in dried methylene chloride (5 ml.) was dropwise added a solution of bromine (0.75 g.) in dried methylene chloride (5 ml.) under cooling at -30° C., and then the mixed solution was stirred for 15 minutes at -10° to -5° C. Thus obtained solution was dropwise added to a solution of 3-carbamoyloxymethyl-7-amino-3-cephem-4-carboxylic acid (1.1 g.) and trimethylsilylacetamide (6.3 g.) in dried methylene chloride (15 ml.) under cooling at -20° C. The reaction temperature was gradually raised to at room temperature, and then the reaction mixture was stirred for 10 minutes at room temperature. After cooling the reaction mixture to at -20° C., water was added thereto, and then the mixture was stirred. The mixture was added a mixture of water (40 ml.) and ethyl acetate (80 ml.) with stirring, and the mixture was further stirred for 5 minutes, and then ethyl acetate layer was separated therefrom. The ethyl acetate layer was filtered, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then treated with activated carbon. After distillation of the solvent from the ethyl acetate layer, the residue was pulverized in diethyl ether, collected by filtration and then dried to give 3-carbamoyloxymethyl-7-(3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (1.02 g.)

reactant | 4-methylene-2-oxetanone | 0.4 g | C=C1CC(O1)=O | C4H4O2
reactant | bromine | 0.75 g | BrBr | Br2
reactant | 3-carbamoyloxymethyl-7-amino-3-cephem-4-carboxylic acid | 1.1 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C9H11N3O5S
reactant | trimethylsilylacetamide | 6.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40 ml | O | H2O
product | 3-carbamoyloxymethyl-7-(3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid | 1.02 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC(CBr)=O)=O)=O | C13H14BrN3O7S
